US07994166B2
In a 3 neck flask equipped with a mechanical stirrer, thermocouple and addition funnel using a water bath was added (R)-tert-butyl 2-(3,4-dichlorophenyl)-2-hydroxyethyl(2-hydroxyethyl)-carbamate (588 g, 1.679 mol) followed by MTBE (2.5 L). To the mixture was added triphenylphosphine (528 g, 467 mL, 2.02 mol) followed by isopropyl N-isopropoxycarbonyliminocarbamate (407 g, 390 mL, 2.02 mol) dropwise. During the addition, the reaction temperature gradually increased to reflux. The reaction mixture was allowed to stir at ambient temperature for 1 h. A precipitate occurred and the mixture was chilled with an ice bath to 15° C. The resulting precipitate was filtered, and the filter cake was washed with 2 L of MTBE. The filtrate was concentrated to approximately 2 L in vacuo and returned to the reaction vessel. HCl (1.26 L of 4 M in dioxane, 5.04 mol) was added and the mixture was stirred at 55° C. for 3 h. Effervescence occurred. The mixture was allowed to stir at RT for 10 h and quenched with 1 L of 5M NaOH. The phases were separated and the organic phase was washed with 1 L of brine, and concentrated in vacuo affording an oil which was 98% ee (chiral HPLC). In a 3 neck flask equipped with a mechanical stirrer, thermocouple and heating mantle was added crude yellow oil using glacial acetic acid (2.5 L) The solution was heated and to the mixture was added (2R,3R)-2,3-bis[(4-methylbenzoyl)oxy]butanedioic acid (649 g, 1.68 mol) affording a white slurry. The mixture was heated to reflux affording a clear amber solution. The mixture was vacuum transferred to a clean 5 L flask using a transfer tube and a course sparge tube as a filter. The mixture was seeded and allowed to cool to 45° C. at ambient temperature and then cooled with an ice-bath to 12° C. The resulting mixture was filtered over a medium fritted funnel and washed with 500 mL of glacial acetic acid. The filter cake was slurried with MTBE (500 mL twice), filtered and dried affording (R)-2-(3,4-dichlorophenyl)morpholine (2R,3R)-2,3-bis[(4-methylbenzoyl)oxy]butanedioic acid salt (233 g) as a white solid. The combined mother liquors were concentrated to 2 L in vacuo. The solution was allowed to sit for 12 h, filtered and the filter cake washed with 1 L of MTBE. This afforded an additional 186 g of product for a total of 419 g (40%, >99% ee) of product. To prepare the free base, the salt (178 g, 288 mmol) was added to a 2 L Erlenmeyer flask and diluted with 1 L of MTBE. 2M NaOH (400 mL) was added and the mixture was stirred until clear. The organic phase was separated and the aqueous phase was extracted with 500 mL of MTBE. The combined organic phases were dried over MgSO4 and concentrated in vacuo to afford the free base (R)-2-(3,4-dichlorophenyl)-morpholine (66 g, 100%) as a colorless oil. 1H-NMR (400 MHz, CDCl3) δ 7.50-7.49 (m, 2H), 7.19 (dd, J=1.6, 8.3 Hz, 1H), 4.47 (dd, J=2.4, 10.4 Hz, 1H), 4.09 (s, 1H), 4.08 (dd, J=1.9, 12.9 Hz, 1H), 3.82-3.75 (m, 1H), 3.09 (dd, J=2.5, 12.5 Hz, 1H), 2.97 (dd, J=3.1, 10.2 Hz, 2H), 2.72-2.69 (m, 1H). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=232.3; tR=0.67 min. Chiral HPLC (Astec Chirobiotic V2 column (25 cm×4.6 mm, 5 um), 100% methanol (0.1% NH4TFA, 1.5 mL/min) tR (R)=10.81 min; tR (S)=13.65 min.

reactant | (R)-tert-butyl 2-(3,4-dichlorophenyl)-2-hydroxyethyl(2-hydroxyethyl)-carbamate | 1.679 mol, 588 g | ClC=1C=C(C=CC1Cl)[C@H](CN(C(OC(C)(C)C)=O)CCO)O | C15H21Cl2NO4
reactant | triphenylphosphine | 2.02 mol, 467 mL, 528 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | isopropyl N-isopropoxycarbonyliminocarbamate | 2.02 mol, 390 mL, 407 g | C(C)(C)OC(=O)N=NC(OC(C)C)=O | C8H14N2O4
reactant | HCl | 5.04 mol, 4 M, 1.26 L | Cl | ClH
reactant | (2R,3R)-2,3-bis[(4-methylbenzoyl)oxy]butanedioic acid | 1.68 mol, 649 g | CC1=CC=C(C(=O)O[C@@H](C(=O)O)[C@H](C(=O)O)OC(C2=CC=C(C=C2)C)=O)C=C1 | C20H18O8
solvent | acetic acid | 2.5 L | C(C)(=O)O | C2H4O2
solvent | MTBE | 2.5 L | CC(C)(C)OC | C5H12O
product | (R)-2-(3,4-dichlorophenyl)morpholine (2R,3R)-2,3-bis[(4-methylbenzoyl)oxy]butanedioic acid salt | 233 g | CC1=CC=C(C(=O)O[C@@H](C(=O)O)[C@H](C(=O)O)OC(C2=CC=C(C=C2)C)=O)C=C1.ClC=1C=C(C=CC1Cl)[C@@H]1CNCCO1 | InChI=1S/C20H18O8.C10H11Cl2NO/c1-11-3-7-13(8-4-11)19(25)27-15(17(21)22)16(18(23)24)28-20(26)14-9-5-12(2)6-10-14;11-8-2-1-7(5-9(8)12)10-6-13-3-4-14-10/h3-10,15-16H,1-2H3,(H,21,22)(H,23,24);1-2,5,10,13H,3-4,6H2/t15-,16-;10-/m10/s1
